US06410571B1
2,6-Dichloro-4-nitrophenol
3,4,5-Trichloronitrobenzene (14.86 g) is added to a solution of potassium phenoxide (8.66 g) in diethylene glycol (66 mL) and the mixture is heated to 160° C. for approximately 15 hours. The resulting dark brown solution is cooled to room temperature, poured. onto 100 mL cold water, and extracted twice with diethyl ether. The pooled organic extracts are washed with water, 10% aqueous sodium hydroxide, and then dried over anhydrous magnesium sulfate. Following removal of the solvent under reduced pressure the resulting oil is distilled in a Kugelrohr apparatus to provide a yellow oil that solidifies on standing. Recrystallization from ethanol-water provides the desired product as a pale yellow solid.

reactant | 3,4,5-Trichloronitrobenzene | 14.86 g | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | potassium phenoxide | 8.66 g | [O-]C1=CC=CC=C1.[K+]
solvent | diethylene glycol | 66 mL | C(COCCO)O | C4H10O3
product | 2,6-Dichloro-4-nitrophenol | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
